US08541421B2
5,6,7,8-Tetrahydroquinazoline-2,4(1H,3H)-dione
A solution of 2-oxocyclohexanecarbonitrile (615 mg, 5.0 mmol) and urea (600 mg, 10.0 mmol) in 1.25 N HCl in EtOH (20 mL) was refluxed over night. After it was cooled down to 0° C., the precipitation was collected by filtration, washed with EtOH/H2O, and dried under vacuum overnight to give the product as a white solid. 1H NMR (400 MHz, CD3OD) δ1.67-1.80 (m, 4H), 2.25-2.29 (m, 2H), 2.38-2.42 (m, 2H). MS 167 (MH+).

reactant | 2-oxocyclohexanecarbonitrile | 5.0 mmol, 615 mg | O=C1C(CCCC1)C#N | C7H9NO
reactant | urea | 10.0 mmol, 600 mg | NC(=O)N | CH4N2O
reactant | EtOH | 20 mL | CCO | C2H6O
solvent | HCl | 1.25 N | Cl | ClH
product | 5,6,7,8-Tetrahydroquinazoline-2,4(1H,3H)-dione | N1C(NC(C=2CCCCC12)=O)=O | C8H10N2O2
